US07812028B2
b) 5-Bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31b, using 5-bromo-6-(5-hydroxy-pentyloxy)-nicotinic acid and (1R,2R)-2-amino-cyclohexanol as starting materials to give the product as white solid, MS (ISP): 403.4 (MH+).

reactant | 5-bromo-6-(5-hydroxy-pentyloxy)-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)OCCCCCO | C11H14BrNO4
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-Bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCCCCO | C17H25BrN2O4
